US07531553B2
Preparation XLII: 4-Chloro-3-(2-pyrrolidin-1-yl-ethoxy)-phenylamine
To a stirring RT slurry of NaH (0.10 g of a 60% by weight oil dispersion, 2.5 mmol) in DMF (2 mL) was added 5-amino-2-chlorophenol (0.20 g, 1.4 mmol). The mixture was stirred for 10 min before adding 1-(2-chloroethyl-pyrrolidine hydrochloride (0.17 g, 1.0 mmol). The reaction was heated at 80° C. for 15 h. The reaction was quenched with water, treated with 1N NaOH, and extracted twice with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The crude residue was purified by silica gel chromatography to yield title compound. MS: (MH+)=241.2; Calc'd 240.74 for C12H17ClN2O.

reactant | NaH | [H-].[Na+]
reactant | 5-amino-2-chlorophenol | 1.4 mmol, 0.20 g | NC=1C=CC(=C(C1)O)Cl | C6H6ClNO
reactant | 2-chloroethyl-pyrrolidine hydrochloride | 1.0 mmol, 0.17 g | Cl.ClCCN1CCCC1
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-Chloro-3-(2-pyrrolidin-1-yl-ethoxy)-phenylamine | ClC1=C(C=C(C=C1)N)OCCN1CCCC1 | C12H17ClN2O
